US09303012B2
d) 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid tert-butyl-methyl-amide
In analogy to the procedure described in Example 47 b), 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid was reacted with N,2-dimethylpropan-2-amine (CAN 94896-77-2) in the presence of TBTU and DIEA to give the title compound as colorless oil; MS (EI): m/e=303.4 [MH+].

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | N,2-dimethylpropan-2-amine | CNC(C)(C)C | C5H13N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid tert-butyl-methyl-amide | C(C)(C)(C)N(C(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1)C | C18H26N2O2
